US07320992B2
2-Bromo-6-methyl-benzoic acid (4.95 g) and K2CO3 (16.26 g) were suspended in acetone (150 mL). MeI (7.5 mL) was added and the mixture was heated at reflux for 3.5 h. The solid was removed by filtration and the filtrate was concentrated. The residue was taken into EtOAc and washed with saturated NH4Cl, H2O and saturated NaCl. The organic phase was dried over MgSO4, filtered, and concentrated to yield 2-bromo-6-methyl-benzoic acid methyl ester as an orange oil.

reactant | 2-Bromo-6-methyl-benzoic acid | 4.95 g | BrC1=C(C(=O)O)C(=CC=C1)C | C8H7BrO2
reactant | K2CO3 | 16.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 7.5 mL | CI | CH3I
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 2-bromo-6-methyl-benzoic acid methyl ester | COC(C1=C(C=CC=C1C)Br)=O | C9H9BrO2
